US04518597
7-Chloro-6-(4-phenylsulfinyl-butoxy)-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 4 from 7-chloro-6-hydroxy-4H-3,1-benzoxazin-2-one and 4-phenylsulfinyl-butylchloride.

reactant | 7-chloro-6-hydroxy-4H-3,1-benzoxazin-2-one | ClC1=CC2=C(COC(N2)=O)C=C1O | C8H6ClNO3
reactant | 4-phenylsulfinyl-butylchloride | C1(=CC=CC=C1)S(=O)CCCCCl | C10H13ClOS
product | 7-Chloro-6-(4-phenylsulfinyl-butoxy)-4H-3,1-benzoxazin-2-one | ClC1=CC2=C(COC(N2)=O)C=C1OCCCCS(=O)C1=CC=CC=C1 | C18H18ClNO4S
